US07943647B2
c) Preparation of (S)-3-Methyl-2-{pentanoyl-[2′-(1H-tetrazol-5-yl)-biphenyl-4-ylmethyl]-amino}-butyric acid
A suspension of (S)-3-methyl-2-((2′-(1H-tetrazol-5-yl)-biphenyl-4-ylmethyl)-amino)-butyric acid (17.6 g; 50.0 mmol) in 1,2-dimethoxyethan (116 g) is cooled to −5° C., and valeroyl-chloride (9.9 ml; 80 mmol) is added, followed by slow addition of pyridine (6.0 ml; 75 mmol) diluted with 1,2-dimethoxyethane (60 ml). [1] After completion of the reaction, the reaction mixture is quenched with methanol (18 ml). Finally water (50 ml) is added at room temperature, and after stirring for 1 h, the mixture is adjusted to pH 7.5 by addition of aqueous sodium carbonate solution 10% (˜116 ml, 120 mmol) at 0° C. The organic solvents are stripped off at 50° C. in vacuo. Ethylacetate (125 ml) is added to the remaining aqueous concentrate, and the two-phase system is adjusted to pH 2 at 0-5° C. by addition of 2.0 M HCl (˜98 ml). The organic phase is separated and concentrated at 45° C. in vacuo (water is azeotropically removed). The crystallization of the product is initiated at 45° C. and—after addition of cyclohexan (102 ml)—completed by cooling to −5° C. The solid is collected by filtration, and after drying at 50° C., (S)-3-methyl-2-{pentanoyl-[2′-(1H-tetrazol-5-yl)-biphenyl-4-ylmethyl]-amino}-butyric acid is received as a white powder.

reactant | (S)-3-methyl-2-((2′-(1H-tetrazol-5-yl)-biphenyl-4-ylmethyl)-amino)-butyric acid | 50.0 mmol, 17.6 g | CC([C@@H](C(=O)O)NCC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1)C | C19H21N5O2
reactant | valeroyl-chloride | 80 mmol, 9.9 ml | C(CCCC)(=O)Cl | C5H9ClO
reactant | pyridine | 75 mmol, 6.0 ml | N1=CC=CC=C1 | C5H5N
reactant | sodium carbonate | 120 mmol, ˜116 ml | C([O-])([O-])=O.[Na+].[Na+]
reactant | HCl | 2.0 M, ˜98 ml | Cl | ClH
solvent | 1,2-dimethoxyethan | 116 g | COCCOC | C4H10O2
solvent | 1,2-dimethoxyethane | 60 ml | COCCOC | C4H10O2
solvent | Ethylacetate | 125 ml | C(C)OC(C)=O | C4H8O2
product | (S)-3-Methyl-2-{pentanoyl-[2′-(1H-tetrazol-5-yl)-biphenyl-4-ylmethyl]-amino}-butyric acid | CC([C@@H](C(=O)O)N(CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1)C(CCCC)=O)C | C24H29N5O3
